US05559232
330 mg of (S)-N1-(2-amino-ethyl)-N4-[(S)-1-(amino-imino-methyl)-piperidin-3-ylmethyl]-N1-cyclopropyl-2-morpholin-4-ylsulphonylamino-succinamide hydrochloride are stirred at room temperature for 20 hours together with 162 mg of 4-methyl-piperazin-1-ylsulphonyl chloride and 0.49 ml of Hunig's base in 8 ml of methylene chloride. The reaction mixture is chromatographed over silica gel with ethyl acetate/acetone/glacial acetic acid/water 2:2:2:1. 14.9.1 mg of pure crystalline (S)-N4-[(S)-1-(amino-imino-methyl)-piperidin-3-ylmethyl]-N1-cyclopropyl-N1-[2-(4-methyl-piperazin-1-ylsulphonylamino)-ethyl]-2-morpholin-4-ylsulphonylamino-succinamide acetate (1:2), MS (ISP): 665.6 (M+H) and 333.7 (M+2H), are obtained.

reactant | (S)-N1-(2-amino-ethyl)-N4-[(S)-1-(amino-imino-methyl)-piperidin-3-ylmethyl]-N1-cyclopropyl-2-morpholin-4-ylsulphonylamino-succinamide hydrochloride | 330 mg | Cl.NCCN(C([C@H](CC(=O)NC[C@H]1CN(CCC1)C(=N)N)NS(=O)(=O)N1CCOCC1)=O)C1CC1
reactant | 4-methyl-piperazin-1-ylsulphonyl chloride | 162 mg | CN1CCN(CC1)S(=O)(=O)Cl | C5H11ClN2O2S
reactant | Hunig's base | 0.49 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | (S)-N4-[(S)-1-(amino-imino-methyl)-piperidin-3-ylmethyl]-N1-cyclopropyl-N1-[2-(4-methyl-piperazin-1-ylsulphonylamino)-ethyl]-2-morpholin-4-ylsulphonylamino-succinamide acetate | C(C)(=O)O.NC(N1C[C@@H](CCC1)CNC(C[C@@H](C(=O)N(CCNS(=O)(=O)N1CCN(CC1)C)C1CC1)NS(=O)(=O)N1CCOCC1)=O)=N | InChI=1S/C25H48N10O7S2.C2H4O2/c1-31-9-11-33(12-10-31)43(38,39)29-6-8-35(21-4-5-21)24(37)22(30-44(40,41)34-13-15-42-16-14-34)17-23(36)28-18-20-3-2-7-32(19-20)25(26)27;1-2(3)4/h20-22,29-30H,2-19H2,1H3,(H3,26,27)(H,28,36);1H3,(H,3,4)/t20-,22-;/m0./s1
